US04634710
20 ml of acetic anhydride were added dropwise at room temperature to a solution of 7.8 g of 4-ethoxy-2,5-dimethylpyridine 1-oxide in 30 ml of chloroform. After boiling under reflux for 3 hours the solution was evaporated, the residue was dissolved in 50 ml of toluene and again evaporated. The residue was taken up in 50 ml of ethyl acetate, whereupon the solution was extracted three times with 20 ml of saturated sodium bicarbonate solution. The organic phase was dried over sodium sulfate and evaporated in vacuo. The product was chromatographed on 50 g of silica gel with ether and there was obtained (4-ethoxy-5-methyl-2-pyridyl)methyl acetate in the form of an oil.

reactant | acetic anhydride | 20 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | 4-ethoxy-2,5-dimethylpyridine 1-oxide | 7.8 g | C(C)OC1=CC(=[N+](C=C1C)[O-])C | C9H13NO2
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
product | (4-ethoxy-5-methyl-2-pyridyl)methyl acetate | C(C)(=O)OCC1=NC=C(C(=C1)OCC)C | C11H15NO3
